US05550147
A mixture of 1-(4-carboxyphenyl)-5-[4-(methylsulfonyl)phenyl]-3-(trifluoromethyl)pyrazole (2.2 g) and hydrogen chloride in ethanol (50 ml) was refluxed for 6 hours. The solvent was evaporated and the residue was recrystallized from ethanol to give crystals of 1-[4-(ethoxycarbonyl)phenyl]-5-[4-(methylsulfonyl)phenyl]-3-(trifluoromethyl)pyrazole (2.3 g).

reactant | 1-(4-carboxyphenyl)-5-[4-(methylsulfonyl)phenyl]-3-(trifluoromethyl)pyrazole | 2.2 g | C(=O)(O)C1=CC=C(C=C1)N1N=C(C=C1C1=CC=C(C=C1)S(=O)(=O)C)C(F)(F)F | C18H13F3N2O4S
reactant | hydrogen chloride | Cl | ClH
reactant | ethanol | 50 ml | C(C)O | C2H6O
product | 1-[4-(ethoxycarbonyl)phenyl]-5-[4-(methylsulfonyl)phenyl]-3-(trifluoromethyl)pyrazole | 2.3 g | C(C)OC(=O)C1=CC=C(C=C1)N1N=C(C=C1C1=CC=C(C=C1)S(=O)(=O)C)C(F)(F)F | C20H17F3N2O4S
